US04808632
10B. 2-(2-Iodoethoxy)tetrahydro-2-H-pyran
Freshly distilled dihydropyran (Aldrich, 59.0 g, 0.7 mol) was added dropwise to a cooled solution of 2-iodoethanol (Aldrich, 98 g, 0.57 mol) in Et2O (1L) containing 0.1 g of p-toluenesulfonic acid (Eastman). The solution was then stirred for 1 h at 5°. Solid K2CO3Mallinckrodt, 5 g) was then added to the reaction mixture and the resulting suspension stirred an additional 1 h at RT. The reaction was then filtered and the remaining solid washed with Et2O (1 L). The organic solutions were combined and concentrated rotary evaporation (in a flask washed with 1% NEt3 in H2O). The crude 2-(2-iodoethoxy)-tetrahydro-2-H-pyran (~100 g, 68.9%) was used without further purification.

reactant | dihydropyran | 0.7 mol, 59.0 g | O1CCCC=C1 | C5H8O
reactant | 2-iodoethanol | 0.57 mol, 98 g | ICCO | C2H5IO
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | Et2O | CCOCC | C4H10O
product | 2-(2-Iodoethoxy)tetrahydro-2-H-pyran | ICCOC1OCCCC1 | C7H13IO2
